US04086350
A mixture of 4.4 g. of 4-fluoroanthranilic acid in 35 ml. of water and 7 ml. of hyrochloric acid is diazotized with 2.0 g. of sodium nitrite in 6 ml. of water at 0°-5° C. The resulting cold solution is added dropwise to a mixture of 7.1 g. of potassium iodide, 2 ml. of sulfuric acid and 10 ml. of water. The mixture is heated for 2 hours to 100° C. and steam distilled. The cooled residue gives 4-fluoro-2-iodobenzoic acid, m.p. 140°-147° C.

reactant | 4-fluoroanthranilic acid | FC=1C=C(C(C(=O)O)=CC1)N | C7H6FNO2
reactant | hyrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-fluoro-2-iodobenzoic acid | FC1=CC(=C(C(=O)O)C=C1)I | C7H4FIO2
